US07662974B2
Under argon atmosphere, 0.49 g (1.66 mmol, 1.25 equivalents) of (+)-cichonine was added to 6.2 mL (3.3 mmol, 2.5 equivalents) of the solution of n-propyl bromozincacetate in tetrahydrofuran obtained in Example 57 at 3˜4° C. 0.43 mL (5.32 mmol, 4 equivalents) of pyridine was added dropwise at 4˜6° C. The mixture was stirred at 3˜5° C. for 20 minutes. A solution of 0.69 g (1.32 mmol) of N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide in 6.9 mL of THF was added dropwise at −41˜−35° C. 2.5 mL (1.32 mmol, 1 equivalent) of the solution of n-propyl bromozincacetate in tetrahydrofuran obtained in Example 57 was added at −43˜−36° C., and the mixture was stirred at −43˜−37° C. for 2 hours. 10 mL of 1N hydrochloric acid was added at 0° C. or lower, followed by dilution with 30 mL of ethyl acetate. The layers were separated. The organic layer was washed successively with 5 mL (×3) of 1N hydrochloric acid, 5 mL of water, 5 mL (×2) of an aqueous saturated sodium bicarbonate solution, 5 mL (×2) of an aqueous saturated sodium chloride solution. After washing and concentration under reduced pressure, 2 mL of IPE was added, crystals were loosened, filtered, and washed with 1 mL (×2) of IPE. After washing, vacuum drying (4° C.) to a constant weight afforded 0.73 g of n-propyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate (yield 89%, enantiomer excessive rate 96.0% ee).

reactant | pyridine | 5.32 mmol, 0.43 mL, 4 equivalents | N1=CC=CC=C1 | C5H5N
reactant | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 1.32 mmol, 0.69 g | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 6.9 mL | C1CCOC1 | C4H8O
product | n-propyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate | 0.73 g, yield 89% | O[C@](CC(=O)OCCC)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C(=O)NC | C40H37N3O4
